US06518265B1
1-[2-(N-Methanesulfonyl-4-piperidyl)ethyl]-4-phenoxy-1H-imidazo[4,5-c]-quinoline
To a solution of 1.00 g of 4-phenoxy-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate and 0.57 ml of triethylamine in 10 ml of methylene chloride, 0.16 ml of methanesulfonyl chloride was added dropwise at room temperature, and the mixture was stirred for 1.5 hours. The reaction mixture was added with water, and extracted with methylene chloride. The extract was washed with water, and dried, and then the solvent was evaporated to give a colorless liquid. The resulting colorless liquid was solidified with ethyl acetate, and the solid was washed with diethyl ether to give 0.80 g of colorless crystals. Recrystallization from a mixture of methylene chloride and ethyl acetate gave colorless crystals having the melting point of from 173.5 to 176° C.

reactant | 4-phenoxy-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate | 1.00 g | FC(C(=O)O)(F)F.O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCNCC2
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonyl chloride | 0.16 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(N-Methanesulfonyl-4-piperidyl)ethyl]-4-phenoxy-1H-imidazo[4,5-c]-quinoline | 0.80 g | CS(=O)(=O)N1CCC(CC1)CCN1C=NC=2C(=NC=3C=CC=CC3C21)OC2=CC=CC=C2 | C24H26N4O3S
